US06048866
N-{3,5-Dichloro-4-[(2-pyrrolidin-1-yl)ethoxy]phenyl}-4-(3,5-dimethylphenylsulphanyl)-2-pyrimidineamine
To a solution of N-(3,5-dichloro-4-hydroxyphenyl)-4-(3,5-dimethylphenylsulphanyl)-2-pyrimidineamine (1.0 g, 2.55 mmol--prepared from 4-amino-2,6-dichlorophenol and 2-chloro-4-(3,5-dimethylphenylsulphanyl)-pyrimidine according to the method of Example 4) in dry tetrahydrofuran were added triphenylphosphine (802 mg, 3.06 mmol) and N-(2-hydroxyethyl)pyrrolidine (0.3 ml, 2.55 mmol), followed by diethyl azadicarboxylate (0.49 ml, 3.1 mmol). The resulting solution was heated at reflux for 18 h and on cooling the reaction was partitioned between ethyl acetate (200 ml) and saturated aqueous NaHCO3 (200 ml). The organic phase was dried (MgSO4), evaporated and the residue columned (silica;ethyl acetate) to give the title compound (400 mg) as a white foam. δH 8.08 (1H, d, J 5.8 Hz), 7.56 92H, s), 7.17 (2H, s), 7.09 (1H, s), 7.05 (1H, s), 6.28 (1H, d, J 5.8 Hz), 4.18 (2H, t, J 8.6 Hz), 2.59 (2H, t, J 8.6 Hz), 2.59 (2H, t, J 8.6 Hz), 2.69 (4H, m), 2.31 (6H, s) and 1.80 (4H, m). MS m/z 489.2/490.9 (MH+).

reactant | N-(3,5-dichloro-4-hydroxyphenyl)-4-(3,5-dimethylphenylsulphanyl)-2-pyrimidineamine | ClC=1C=C(C=C(C1O)Cl)NC1=NC=CC(=N1)SC1=CC(=CC(=C1)C)C | C18H15Cl2N3OS
reactant | 4-amino-2,6-dichlorophenol | NC1=CC(=C(C(=C1)Cl)O)Cl | C6H5Cl2NO
reactant | 2-chloro-4-(3,5-dimethylphenylsulphanyl)-pyrimidine | ClC1=NC=CC(=N1)SC1=CC(=CC(=C1)C)C | C12H11ClN2S
reactant | triphenylphosphine | 3.06 mmol, 802 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-(2-hydroxyethyl)pyrrolidine | 2.55 mmol, 0.3 ml | OCCN1CCCC1 | C6H13NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-{3,5-Dichloro-4-[(2-pyrrolidin-1-yl)ethoxy]phenyl}-4-(3,5-dimethylphenylsulphanyl)-2-pyrimidineamine | 400 mg | ClC=1C=C(C=C(C1OCCN1CCCC1)Cl)NC1=NC=CC(=N1)SC1=CC(=CC(=C1)C)C | C24H26Cl2N4OS
